US07666901B2
Preparation of Acetic acid 4-[1,4′]bipiperidinyl-1′-ylmethylene-6,17-dihydroxy-1-methoxymethyl-10,13-dimethyl-3,7-dioxo-1,3,4,7,10,11,12,13,14,15,16,17-dodecahydro-2-oxa-cyclopenta[a]phenanthren-11-yl ester
17-Hydroxywortmannin (30 mg, 0.069 mmol) is dissolved in 2 ml methylene chloride and stirred at room temperature under nitrogen atmosphere as 4-piperidinopiperidine (0.069 mmol, 11.6 mg) is added. The reaction solution turns orange immediately. After 30 min, the solvent is evaporated and the solid is recrystallized from ethyl acetate/hexane (2:1). After filtration, the solid is washed with hexane and dried under vacuum to yield about 30 mg the title compound as an orange powder. UV λmax (CH3CN/H2O): 250 nm, 320 nm, 397 nm; Positive ESI-MS: m/z 599 [M+H]+.

reactant | 17-Hydroxywortmannin | 0.069 mmol, 30 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CC[C@@H]2O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H26O8
reactant | 4-piperidinopiperidine | 0.069 mmol, 11.6 mg | N1(CCCCC1)C1CCNCC1 | C10H20N2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | Acetic acid 4-[1,4′]bipiperidinyl-1′-ylmethylene-6,17-dihydroxy-1-methoxymethyl-10,13-dimethyl-3,7-dioxo-1,3,4,7,10,11,12,13,14,15,16,17-dodecahydro-2-oxa-cyclopenta[a]phenanthren-11-yl ester | about 30 mg | N1(CCCCC1)C1CCN(CC1)C=C1C(OC(C2(C=3C(CC4(C(CCC4C3C(C(=C12)O)=O)O)C)OC(C)=O)C)COC)=O | C33H46N2O8
